US04931196
Example 1 Preparation of 2,2', 2"-[1,3,5-triazine-2,4,6-triyltris-(thio)]tris dodecanoic acid
A stirred solution of KOH (12.8 g; 0.228 mole) in ethanol (350 ml) is cooled to 10° C. and treated with trithiocyanuric acid (6.8 g; 0.038 mole). After stirring for 30 minutes, the reaction mixture is treated with 2-bromododecanoic acid (31.8 g; 0.114 mole) in small portions over 10-15 minutes. The resulting thick, white suspension is stirred for a further 30 minutes at 10° C. and is then allowed to warm to ambient temperature. Upon reaching ambient temperature the reaction mixture is heated to reflux and maintained at this temperature for 6 hours.

reactant | KOH | 0.228 mole, 12.8 g | [OH-].[K+]
reactant | trithiocyanuric acid | 0.038 mole, 6.8 g | N1C(=S)NC(=S)NC1=S | C3H3N3S3
reactant | 2-bromododecanoic acid | 0.114 mole, 31.8 g | BrC(C(=O)O)CCCCCCCCCC | C12H23BrO2
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 2,2', 2"-[1,3,5-triazine-2,4,6-triyltris-(thio)]tris dodecanoic acid | N1=C(N=C(N=C1SC(C(=O)O)CCCCCCCCCC)SC(C(=O)O)CCCCCCCCCC)SC(C(=O)O)CCCCCCCCCC | C39H69N3O6S3
